US09127233B2
4-guanidinophenylalanine;
N-guanyl-dl-phenylalanine; (2S)-2-[[(2S)-2-amino-5-(diaminomethylideneannino)pentanoyl]amino]-3-phenylpropanoic acid, known as arginylphenylalanine; (2S)-2-amino-3-[4-[(diaminomethylideneamino)methyl]phenyl]propanoic acid; 2-amino-3-phenylpropanehydrazide; (2S)-2-[[(2S)-2-amino-3-phenylpropanoyl]amino]-5-(diaminomethylideneamino)-N-naphthalen-2-ylpentanamide; and polyphemusin I or II.

reactant | N-guanyl-dl-phenylalanine | C(N)(=N)NC(CC1=CC=CC=C1)C(=O)O | C10H13N3O2
reactant | (2S)-2-[[(2S)-2-amino-5-(diaminomethylideneannino)pentanoyl]amino]-3-phenylpropanoic acid | N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC=CC=C1)CCCN=C(N)N | C15H23N5O3
reactant | arginylphenylalanine | N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C15H23N5O3
reactant | (2S)-2-amino-3-[4-[(diaminomethylideneamino)methyl]phenyl]propanoic acid | N[C@H](C(=O)O)CC1=CC=C(C=C1)CN=C(N)N | C11H16N4O2
reactant | 2-amino-3-phenylpropanehydrazide | NC(C(=O)NN)CC1=CC=CC=C1 | C9H13N3O
reactant | (2S)-2-[[(2S)-2-amino-3-phenylpropanoyl]amino]-5-(diaminomethylideneamino)-N-naphthalen-2-ylpentanamide | N[C@H](C(=O)N[C@H](C(=O)NC1=CC2=CC=CC=C2C=C1)CCCN=C(N)N)CC1=CC=CC=C1 | C25H30N6O2
reactant | polyphemusin I | CC(C)[C@@H](C(=O)N[C@@H](CS)C(=O)N[C@@H](CC=1C=CC(=CC1)O)C(=O)N[C@@H](CCCNC(=N)N)C(=O)NCC(=O)N[C@@H](CC=2C=CC=CC2)C(=O)N[C@@H](CS)C(=O)N[C@@H](CC=3C=CC(=CC3)O)C(=O)N[C@@H](CCCNC(=N)N)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CS)C(=O)N[C@@H](CCCNC(=N)N)C(=O)N)NC(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC=4C=CC=CC4)NC(=O)[C@H](CS)NC(=O)[C@H](CC5=CNC6=C5C=CC=C6)NC(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CCCNC(=N)N)N | C108H165N39O20S4
product | 4-guanidinophenylalanine | N(C(=N)N)C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C10H14N4O2
